US07138401B2
A suspension of 6-chloropurine (0.2 mmol) and tetrakis(triphenylphosphino)-palladium (0.02 mmol) in dry THF (3 mL) was treated with trimethylaluminum (2M in toluene, 0.45 mmol) under nitrogen. The resulting solution was heated to reflux for 3 h, cooled to r.t., diluted with toluene (5 mL), and quenched with methanol (0.5 mL) followed by ammonium chloride (1 mmol). The mixture was heated to reflux for 2 h and filtered while hot through a Celite plug. Evaporation and purification by prep TLC afforded the 6-methylpurine. See J. Med. Chem. 1999, 42, 2064–2086.

reactant | 6-chloropurine | 0.2 mmol | ClC1=C2NC=NC2=NC=N1 | C5H3ClN4
reactant | trimethylaluminum | 0.45 mmol, 2M | C[Al](C)C
reactant | ammonium chloride | 1 mmol | [Cl-].[NH4+]
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphino)-palladium | 0.02 mmol | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)[Pd](P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | 6-methylpurine | CC1=C2NC=NC2=NC=N1 | C6H6N4
